US08685981B2
(13a) 1,4,8-Trioxaspiro[4.5]decane
Tetrahydro-4H-pyran (6.00 g, 60.0 mmol) was dissolved in benzene (120 mL), to which ethylene glycol (11.2 g, 180 mmol) and p-toluenesulfonic acid monohydrate (1.14 g, 6.00 mmol) were added. Using a Dean-Stark tube, the resulting mixture was refluxed for two hours while removing water generated. To the resulting reaction liquid, a saturated aqueous solution of sodium bicarbonate was added, followed by extraction with ethyl acetate. The resulting organic layer was washed with saturated brine, and dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate, 100:0-0:100, V/V) to give the desired title compound (7.79 g, yield 90%).

reactant | Tetrahydro-4H-pyran | 60.0 mmol, 6.00 g | O1CCCCC1 | C5H10O
reactant | ethylene glycol | 180 mmol, 11.2 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 6.00 mmol, 1.14 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
product | 1,4,8-Trioxaspiro[4.5]decane | 7.79 g, yield 90% | O1CCOC12CCOCC2 | C7H12O3
